US07514566B2
Tert-butyl 5-bromo-4-cyanothiazol-2-ylcarbamate
2-Amino-5-bromothiazole-4-carbonitrile (1.20 g, 5.88 mmol) was dissolved in 50 mL of dioxane. Di-tert-butyl dicarbonate (2.56 g, 11.76 mmol) and N,N-dimethylpyridin-4-amine (35.9 mg, 0.295 mmol) were added to the reaction mixture. The reaction was complete after heating at 75° C. for 30 minutes. The solvent was evaporated under reduced pressure. Saturated sodium bicarbonate was added into the reaction mixture, and the mixture was extracted with EtOAc (2×100 mL). The organic layers were combined, washed with brine, and dried over sodium sulfate. The crude product was purified by column chromatography (condition: 15% EtOAc in hexane). LCMS (API-ES) m/z (%): 303.9 (100%, M+).

reactant | 2-Amino-5-bromothiazole-4-carbonitrile | 5.88 mmol, 1.20 g | NC=1SC(=C(N1)C#N)Br | C4H2BrN3S
reactant | Di-tert-butyl dicarbonate | 11.76 mmol, 2.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | N,N-dimethylpyridin-4-amine | 0.295 mmol, 35.9 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Tert-butyl 5-bromo-4-cyanothiazol-2-ylcarbamate | BrC1=C(N=C(S1)NC(OC(C)(C)C)=O)C#N | C9H10BrN3O2S
